US09029536B2
A) 3-Bromo-1-(1-methylethyl)-1H-pyrazolo[4,3-b]pyridine
To a solution of 3-bromo-1H-pyrazolo[4,3-b]pyridine (200 mg) in DMF (10 mL) were added 2-iodopropane (0.20 mL) and K2CO3 (168 mg) at room temperature. After stirring overnight, the reaction mixture was poured into water and extracted with AcOEt. The extract was washed with water and brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (AcOEt/hexane) to give the title compound (147 mg).

reactant | 3-bromo-1H-pyrazolo[4,3-b]pyridine | 200 mg | BrC1=NNC=2C1=NC=CC2 | C6H4BrN3
reactant | 2-iodopropane | 0.20 mL | IC(C)C | C3H7I
reactant | K2CO3 | 168 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-1-(1-methylethyl)-1H-pyrazolo[4,3-b]pyridine | 147 mg | BrC1=NN(C=2C1=NC=CC2)C(C)C | C9H10BrN3
